.SUBCKT irf1010ns 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK 
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement *
**************************************
* Model generated on Mar 24, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.84178 LAMBDA=0 KP=115.276
+CGSO=3.00969e-05 CGDO=1.17481e-08
RS 8 3 0.00757655
D1 3 1 MD
.MODEL MD D IS=8.38397e-11 RS=0.0043176 N=1.1863 BV=55
+IBV=0.00025 EG=1.2 XTI=4 TT=4.24995e-07
+CJO=1.91846e-09 VJ=4.94006 M=0.696882 FC=0.489612
RDS 3 1 1e+06
RD 9 1 0.0001
RG 2 7 4.03401
D2 4 5 MD1
* Default values used in MD1:
* RS=0 EG=1.11 XTI=3.0 TT=0
* BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=2.6014e-09 VJ=1.21238 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.400216 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.78367e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
* EG=1.11 XTI=3.0 TT=0 CJO=0
* RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.400216
.ENDS irf1010ns

*SPICE Thermal Model Subcircuit
.SUBCKT irf1010ns 3 0

R_RTHERM1         3 2  0.17
R_RTHERM2         2 1  0.258148
R_RTHERM3         1 0  0.423425
C_CTHERM1         3 0  0.000618
C_CTHERM2         2 0  0.00289
C_CTHERM3         1 0  0.021232

.ENDS irf1010nst



